US04707483
8-Methoxy-1-phenyl-7-trifluoromethylthio-2,3,4,5-tetrahydro-1H-3-benzazepine (3.7 g, 0.01 m) dissolved in methylene chloride is treated with trifluoroacetic anhydride (2.2 g, 0.01 m) to give 8-methoxy-1-phenyl-3-trifluoroacetyl-7-trifluoromethylthio-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 8-Methoxy-1-phenyl-7-trifluoromethylthio-2,3,4,5-tetrahydro-1H-3-benzazepine | 3.7 g | COC=1C(=CC2=C(C(CNCC2)C2=CC=CC=C2)C1)SC(F)(F)F | C18H18F3NOS
reactant | trifluoroacetic anhydride | 2.2 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 8-methoxy-1-phenyl-3-trifluoroacetyl-7-trifluoromethylthio-2,3,4,5-tetrahydro-1H-3-benzazepine | COC=1C(=CC2=C(C(CN(CC2)C(C(F)(F)F)=O)C2=CC=CC=C2)C1)SC(F)(F)F | C20H17F6NO2S
